US05538987
2-Butyl-4-chloro-5-chloromethyl-1-[(2'-methoxycarbonyl-1,1'-biphenyl-4-yl)methyl]-1H-imidazole
A solution of 1 g of 2-butyl-4-chloro-5-hydroxymethyl-1-[(2'-methoxycarbonyl-1,1'-biphenyl-4yl)methyl]-1H-imidazole in 20 ml of CHCl3 is added with 1.44 g of thionyl chloride.

reactant | 2-butyl-4-chloro-5-hydroxymethyl-1-[(2'-methoxycarbonyl-1,1'-biphenyl-4yl)methyl]-1H-imidazole | 1 g | C(CCC)C=1N(C(=C(N1)Cl)CO)CC1=CC=C(C=C1)C1=C(C=CC=C1)C(=O)OC | C23H25ClN2O3
reactant | thionyl chloride | 1.44 g | S(=O)(Cl)Cl | Cl2OS
solvent | CHCl3 | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-Butyl-4-chloro-5-chloromethyl-1-[(2'-methoxycarbonyl-1,1'-biphenyl-4-yl)methyl]-1H-imidazole | C(CCC)C=1N(C(=C(N1)Cl)CCl)CC1=CC=C(C=C1)C1=C(C=CC=C1)C(=O)OC | C23H24Cl2N2O2
